Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Debrox / Narcotic Analgesic & Non-Salicylate Comb / Flonase / 
aspirin
 
Attending: ___.
 
Chief Complaint:
Malaise
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy ___
___ guided liver biopsy ___

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with a history of HLA B27, 
iritis who presents with 2 weeks weight loss, anorexia, chills, 
myalgias, and arthralgias.

At the request of his PCP he went to urgent care on ___ where 
labs were notable for alk phos of 332. The following day he saw 
his PCP (Dr. ___. He was noted to be 137 lbs (from baseline 
140-150). His PCP rechecked labs (listed below), including blood 
cultures. He was then sent for RUQ US in light of elevated LFTs, 
as well as EGD, given worsening anemia.

He was seen in the ___ clinic on ___. Given myalgias 
of the anterior thighs/proximal forearms combined with weight 
loss, PMR was considered though thought atypical. Exam at the 
time was notable for no synovitis/tophi/localized 
tenderness/squeeze tenderness/edema/joint swelling, though labs 
were notable for markedly elevated ESR/CRP. Per rheumatology he 
was started on prednisone 15 mg daily, and subsequently dose was 
increased to 20 mg when his symptoms did not improve. 

He presented to the emergency room on ___ for further workup, 
but left after several hours of not being seen. He emailed his 
PCP who advised that he go back to the ED to be admitted for 
further workup.

On interview today he confirms the history as noted above. He 
confirms a 2 week history of nausea, mylagias, arthralgias, and 
pronounced loss of appetite. Over the past few days he has had 
worsening myalgias/arthralgias. 

He endorses rare headache, no vomiting, no vision or hearing 
changes, no congestion. He denies chest pain, dyspnea, cough, 
abdominal pain, diarrhea, constipation, dysuria.  

He denies recent travel, no sick contacts at home, no pets at 
home.  
 
Past Medical History:
HLA B27
Iritis
PPD+, s/p BCG, quant gold neg
Non-crystal proven gout
Pulmonary nodule, did not require follow up
Hyperlipidemia
Colonic polyps
Low back pain
 
Social History:
___
Family History:
Significant for gout in his older brother, not on allopurinol. 
Per OMR, family history of Colon cancer in mother, MI in father. 
Two brothers and 1 sister with ___ disease. Family 
history of HTN. Son age ___ with history of diagnosis of gout, 
another son ___ with congenital heart disease
 
Physical Exam:
ADMIT EXAM:
Vital Signs: 98.5 PO 107 / 50 62 18 95 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, dry mucous membranes, oropharynx 
clear,
EOMI, PERRL, neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley 
MSK: Tenderness to palpation of the thighs bilaterally 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. No oslers nodes, no ___ lesions 
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

 
Pertinent Results:
ADMISSION LABS/RESULTS:
WBC 19.2<--20.2<--19.1<--15.6
Hgb 7.6<--7.4<--7.8<--8.5<--12.0
Plt 638<--736<--737<--573<--241

134  98  20
--------------<133
4.8  26   0.9

ALT 138<--105<--41<--15
AST 179<--115<--35
AP 460
T.bili 2.4<--3.2<--1.4

Albumin 2.8
TIBC 186 B12 353 Hapto 378 Ferritin 953 Iron 10

HBsAG negative
HBsAb positive
HBcAb positive
IgM HAV negative
HCV negative

CRP: greater than assay
ESR 113
SPEP: Polyclonal IgG 1868, IgA 437 IgM 72

MICROBIOLOGY:
___ Urine culture pending
___ Blood (EBV) ___ VIRUS VCA-IgG AB-PENDING;
___ VIRUS EBNA IgG AB-PENDING; ___ VIRUS
VCA-IgM AB-PENDING 
___ Blood (CMV AB) CMV IgG ANTIBODY-PENDING; CMV
IgM ANTIBODY-PENDING  
___ SEROLOGY/BLOOD MONOSPOT- Negative. 

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING

___ URINE URINE CULTURE-Negative
___ URINE URINE CULTURE-Negative 

IMAGING & STUDIES: 
___ CXR:
Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
TECHNIQUE:  Chest PA and lateral 
COMPARISON:  CT chest dated ___. 
  
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are
normal. The pulmonary vasculature is normal. Lungs are clear.  
No
pleural effusion or pneumothorax is seen. There are no acute
osseous abnormalities. 
  
IMPRESSION:  
No evidence of past or present tuberculous infection. 

RUQUS ___
Final Report 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) 
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the
abdomen were obtained. 
  
FINDINGS:  
LIVER: The hepatic parenchyma appears within normal limits. The
contour of the liver is smooth. There is no focal liver mass. 
The
main portal vein is patent with hepatopetal flow. There is no
ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD
measures 4 mm. 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall
thickening. There are a few gallbladder polyps present.  The
largest measures 3 mm in diameter. 
  
PANCREAS: The imaged portion of the pancreas appears within
normal limits, without masses or pancreatic ductal dilation, 
with
portions of the pancreatic head and tail obscured by overlying
bowel gas. 
  
SPLEEN:  Normal echogenicity, measuring 10.0 cm.  A splenule is
evident. 
  
KIDNEYS: Views of the kidneys demonstrate no evidence of
hydronephrosis.  The left kidney measures 10.5 cm.  The right
kidney measures 10.1 cm. 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are
within normal limits. 
  
IMPRESSION: 
1. Gallbladder polyps.  Largest measuring 3 mm. 
  
Pathology Report Tissue: GASTROINTESTINAL MUCOSAL BIOPSY
Procedure Date of ___ 
 
Findings: 
Esophagus: Normal esophagus. 
Stomach:  
Mucosa: Nodularity of the mucosa was noted in the antrum. Cold
forceps biopsies were performed for histology at the stomach
antrum.  

Protruding Lesions A single 5 mm polyp was found in the fundus.
Cold forceps biopsies were performed for histology at the 
stomach
fundus.  

Excavated Lesions A few erosions were noted in the stomach body.
Cold forceps biopsies were performed for histology at the 
stomach
body.  

Duodenum: Normal duodenum. 

Other
procedures: Cold forceps biopsies were performed for histology 
at
the second part of the duodenum.
Cold forceps biopsies were performed for histology.  
 
Impression: Polyp in the fundus (biopsy)
Nodularity in the antrum (biopsy)(biopsy, biopsy)
Erosions in the stomach body (biopsy)

RELEVANT INTERVAL LABS/RESULTS:
___ 06:45AM BLOOD Neuts-77* Bands-0 Lymphs-10* Monos-6 
Eos-1 Baso-1 ___ Metas-5* Myelos-0 AbsNeut-13.24* 
AbsLymp-1.72 AbsMono-1.03* AbsEos-0.17 AbsBaso-0.17*
___ 07:06AM BLOOD Hb A-95.3 Hb S-0 Hb C-0 Hb A2-4.7* Hb F-0
___ 12:50AM BLOOD ___ PTT-31.7 ___
___ 07:25PM BLOOD Ret Aut-2.5* Abs Ret-0.10
___ 07:05PM BLOOD Parst S-NEGATIVE
___ 07:25PM BLOOD Parst S-NEGATIVE
___ 05:40AM BLOOD ALT-204* AST-124* LD(___)-152 
AlkPhos-495* TotBili-1.9* DirBili-1.3* IndBili-0.6
___ 06:47AM BLOOD ALT-182* AST-79* LD(LDH)-459* 
AlkPhos-511* TotBili-2.0* DirBili-0.7* IndBili-1.3
___ 10:53PM BLOOD Albumin-2.8*
___ 07:25PM BLOOD TSH-1.2
___ 06:55AM BLOOD Cortsol-22.3*
___ 09:41AM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Positive* IgM HAV-Negative
___ 01:23PM BLOOD ANCA-NEGATIVE B
___ 07:25PM BLOOD AMA-NEGATIVE
___ 09:41AM BLOOD CRP-GREATER TH
___ 07:06AM BLOOD CRP-250.2*
___ 06:47AM BLOOD CRP-263.9*
___ 12:50AM BLOOD CRP-211.4*
___ 07:25PM BLOOD ___
___ 01:23PM BLOOD HIV Ab-Negative
___ 10:40AM BLOOD HCV Ab-Negative
___ 06:45AM BLOOD BCR/ABL GENE REARRANGEMENT, QUANTITATIVE 
PCR, CELL-BASED-PND
___ 09:55PM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-PND
___ 12:46AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:46AM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 12:45PM URINE RBC-4* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 12:41PM URINE U-PEP-NO PROTEIN

IMAGING: 
CXR IMPRESSION: 
 
No evidence of past or present tuberculous infection.

CT Chest w contrast
IMPRESSION:
 
 
1. No evidence of acute intrathoracic process or intrathoracic 
malignancy.
2. Please see separately submitted Abdomen and Pelvis CT report 
for
subdiaphragmatic findings.

CT A/P w contrast
IMPRESSION:
1. No evidence of acute intraabdominal process or intraabdominal 
malignancy.
2. Please see the separately submitted report of the same day CT 
Chest for findings above the diaphragm.

TTE:
Conclusions
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No masses or vegetations are seen on 
the aortic valve. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. No mass or vegetation is 
seen on the mitral valve. Trivial mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
No vegetation/mass is seen on the pulmonic valve. There is no 
pericardial effusion.  

MRCP
IMPRESSION: 
Normal MR appearance of the liver, without mass, steatosis, or 
biliary
abnormality.
 

 

PATHOLOGY/OTHER:
BMBx flow: INTERPRETATION
Immunophenotypic findings show no evidence of increase in 
blasts. Correlation with clinical findings and morphology (see 
separate pathology report ___ and other ancillary 
findings is recommended. Flow cytometry immunophenotyping may 
not detect all abnormal populations due to topography, sampling 
or artifacts of sample preparation.

Liver bx: pending
BMBx: pending
urine cytology: pending

oncology smear review: RBC morphology is consistent with 
suspected
thalassemia and possible iron deficiency anemia.  Platelet
clumping suggests thrombocytosis is underestimated on the manual
count.  No specific diagnosis for fevers could be gleaned by the
smear alone.  Would suggest sending next CBC in a yellow top 
tube
to accurately assess platelet count

renal urine microscopy review: isomorphic reds, hyaline casts

EGD:
REVISED A: Immunostain for H. pylori on part 2 is negative.
***** Electronically Signed Out *****
Diagnosed by: ___, MD
___ Out: ___ 12:43
CLIA # ___
PATHOLOGIC DIAGNOSIS:
1. Fundal polyp:
- Fundic mucosa with rare focal dilatation of the glands 
consistent with fundic gland polyp.
- Additional levels examined.
2. Body biopsy:
- Corpus mucosa with focal erosion, acute inflammation, 
fibrinopurulent exudate consistent with
ulceration and associated reactive epithelial changes.
- Additional levels examined.
- Select slides (HE level 1) is reviewed with Dr. ___ 
concurs.
- Immunostain for H. pylori will be reported as revised report.
3. Antrum biopsy:
- Antral mucosa with regeneration of gastric pits consistent 
with chemical-type gastropathy.
- Additional levels examined.
4. Duodenum biopsy:
Duodenal mucosa, no diagnostic abnormalities recognized. 

MICROBIOLOGY: 
___ NGTD
___ NGTD
___ neg
___ Bx cx neg, fungal/AFB cx pending
___ VL neg
___ VL neg
___ neg
___ neg
___ IgG neg, IgM neg
___ neg
___ neg
___ IgG+, IgM ___
___ IgG+, IgM neg
___ neg

___ BCR/ABL pending
___ anaplasma IgG neg, IgM neg
___ 21:55  Parvovirus B19 DNA, PCRneg

EBV VL  1125  H

DISCHARGE LABS:

___ 06:45AM BLOOD WBC-18.9* RBC-3.57* Hgb-7.0* Hct-22.7* 
MCV-64* MCH-19.6* MCHC-30.8* RDW-18.7* RDWSD-35.6 Plt ___
___ 06:45AM BLOOD Glucose-123* UreaN-14 Creat-0.8 Na-137 
K-4.5 Cl-101 HCO3-26 AnGap-15
___ 06:45AM BLOOD ALT-112* AST-81* AlkPhos-339* TotBili-1.2 
DirBili-0.8* IndBili-0.___ w HLA B27, iritis presents with 2 weeks weight loss, 
anorexia, chills, low grade fevers, myalgias and arthralgias 
with labs notable for anemia, transaminitis, leukocytosis and 
elevated inflammatory markers. 

Very thorough workup as above, as guided by consultants in 
heme/onc, rheumatology, hepatology and infectious disease. 
Concern throughout for inflammatory versus malignant versus less 
likely infectious etiology.

# Malaise, myalgias, arthralgias, weight loss: The etiology of 
his symptoms is unclear at this time. Has been treated 
empirically for atypical PMR, which has led to some symptomatic 
improvement, though per rheumatology the response is not 
adequate and argues against this being the dx. No clear 
malignancy on
imaging but his anemia and low retics is potentially c/f a 
marrow process, though this may also be a poorly reactive marrow 
in setting of infection/inflammation superimposed on beta thal 
trait. No obvious infections, and EBV low level viremia is 
puzzling and unlikely to be a true infection per ID. As above, 
only infectious studies remaining to come back are final reads 
on some of the blood cultures, anaplasma PCR, cultures from BMBx 
and liver biopsy. No remaining rheumatologic studies at this 
time. Rheumatology suggested that a temporal artery biopsy could 
be considered as next step if remaining studies not 
enlightening. Discussed with ophthalmology who felt that in the 
absence of symptoms, a detailed ophaltmologic exam would not be 
beneficial to look for temporal arteritis. Per heme/onc, 
prelminary look at BMBx suggests possible atypical CML, but this 
may not explain his whole picture. Await final studies of BMBx, 
as well as BCR/Abl pending at discharge. JAK2 will need to be 
sent at outpatient follow up. Infiltrative hepatic disease a 
possibility, and liver biopsy is pending at time of discharge. 
Patient will follow up with heme/onc, liver and rheum. He 
remains on his empiric prednisone 20mg po qd throughout, and 
rheumatology recommends not increasing at this time as if this 
were truly PMR a response would likely have been seen. Starting 
calcium, vitamin D and PCP ___ (Bactrim) on discharge. 

# Microcytic Anemia: severe progressive anemia. Iron deficiency, 
inflammation, beta thalassemia trait all noted. EGD with mild 
NSAID-induced type PUD but no
bleeding notable. Colonoscopy ___ with only a polyp, guaiac 
negative, all arguing against occult GIB. Elevated haptoglobin 
argues against hemolysis.
Multiple guaiac neg stools. He was found to have thalassemia 
trait on electropheresis, though this does not explain the whole 
picture. BMBx pending as above. Received 1U PRBCs on ___ with 
good effect. 

# PUD: noted on EGD, likely ___ NSAIDs. Was started on po PPI, 
should follow up as an outpatient with GI, 8 weeks of therapy 
most likely.

# LFT abnormalities: new LFT abnormalities, unclear etiology. As 
above, very broad workup unremarkable. Liver biopsy and 
anaplasma PCR pending on discharge. Will follow up with 
hepatology. 

# chest pain on ___: unclear etiology, occurred for 5 seconds, 
atypical for coronary disease, atypical for PE and resolved 
within seconds. EKG
reassuring and trop wnl. Repeat CXR at that time unremarkable. 
Certainly elevated
risk for PE, but this history is very atypical for a PE so this 
diagnosis was not further pursued. 

# microscopic hematuria: no abnormalities on CT or dysmorphic 
reds. Urine cytology negative, can consider cystoscopy as well 
if above tests not illustrative. 

# PPX: Subcutaneous heparin, Senna/Colace, analgesics prn  
# ACCESS: PIVs  
# CODE STATUS: Full code 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Naproxen 375 mg PO Q8H:PRN Pain - Moderate 
3. Calcium Carbonate 500 mg PO Frequency is Unknown 
4. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO BID 
you may purchase over the counter   
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
5.  Vitamin D 400 UNIT PO DAILY 
you may purchase over the counter   
6.  Acetaminophen 1000 mg PO BID:PRN Pain - Mild  
7.  PredniSONE 20 mg PO DAILY 
RX *prednisone 10 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
?polymyalgia rheumatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was an absolute pleasure caring for you during your 
hospitalization. You were admitted because you had weight loss, 
low grade fevers, muscle aches and lab abnormalities. As you 
know, you underwent a very thorough workup under the guidance of 
Dr. ___ and with the assistance of colleagues in 
___, rheumatology, hepatology, and infectious 
disease. We have continued treating you for possible polymyalgia 
rheumatica with steroids, though we are not at all sure of this 
diagnosis and you will need to follow up with your team of 
doctors as per below. You will follow up with Dr. ___, 
___, hepatology and rheumatology to follow up 
the final results of the tests and to decide on best next steps. 

 
Followup Instructions:
___